US07582638B2
1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3yl)-3-[1(piperidin-4-yloxy)-isoquinolin-4-yl]-urea
To a cold solution of 4-{4-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-isoquinolin-1-yloxy}-piperidine-1-carboxylic acid tert-butyl ester (820 mg, 1.37 mmol) in dichloromethane (50 mL), add trifluoroacetic acid (15 mL). Stir the reaction mixture at 22° C. for 1.5 hours. After removal of solvent, treat the residue with 1N sodium hydroxide saturated with NaCl (50 mL) and extract five times with dichloromethane (50 mL each). Dry the combined organic phases over sodium sulfate. Filter the mixture and subject residue to silica gel chromatography eluting with dichloromethane and methanol to provide a white solid (515 mg, 75% yield, LCMS ES+ (m/z) 499.5 [M+H]).

reactant | 4-{4-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-isoquinolin-1-yloxy}-piperidine-1-carboxylic acid tert-butyl ester | 1.37 mmol, 820 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C2=CC=CC=C12)NC(=O)NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C | C34H42N6O4
reactant | trifluoroacetic acid | 15 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(5-tert-Butyl-2-p-tolyl-2H-pyrazol-3yl)-3-[1(piperidin-4-yloxy)-isoquinolin-4-yl]-urea | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(=O)NC1=CN=C(C2=CC=CC=C12)OC1CCNCC1 | C29H34N6O2
